US04409146
To a solution of 1.46 g 3-benzyloxycarbonylperhydroazepine and 1.06 g methyl bromoacetate in 30 ml benzene add 1.06 g silver oxide. Stir the reaction in the dark for 24 hr., filter and concentrate the filtrate in vacuo. Dissolve the residue in HCl (pH 1.5) and wash the solution with ether. Make the aqueous phase to pH 12 and extract with ethyl acetate. Dry and concentrate the extracts to obtain 1-methoxycarbonylmethyl-3-benzyloxycarbonylperhydroazepine.

reactant | 3-benzyloxycarbonylperhydroazepine | 1.46 g | C(C1=CC=CC=C1)OC(=O)C1CNCCCC1 | C14H19NO2
reactant | methyl bromoacetate | 1.06 g | BrCC(=O)OC | C3H5BrO2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | silver oxide | 1.06 g | [Ag]=O
product | 1-methoxycarbonylmethyl-3-benzyloxycarbonylperhydroazepine | COC(=O)CN1CC(CCCC1)C(=O)OCC1=CC=CC=C1 | C17H23NO4
